US09303035B2
10-(5-Chlorofuran-2-yl)-1,3,8,8-tetramethyl-5-phenyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
The title compound was prepared from 6-(2-hydroxy-2-methylpropyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione and commercially available 5-chlorofuran-2-carbaldehyde in toluene analogously to Example 12, step 2;

reactant | 6-(2-hydroxy-2-methylpropyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | OC(CN1C=C2N(C(N(C(C2=C1C1=CC=CC=C1)=O)C)=O)C)(C)C | C18H21N3O3
reactant | 5-chlorofuran-2-carbaldehyde | ClC1=CC=C(O1)C=O | C5H3ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10-(5-Chlorofuran-2-yl)-1,3,8,8-tetramethyl-5-phenyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1OC(CN2C1=C1C(=C2C2=CC=CC=C2)C(N(C(N1C)=O)C)=O)(C)C | C23H22ClN3O4
